US07576122B2
Step A: N,N′-Dimethoxy-N,N′-dimethylsuccinamide
Dissolve 136.2 g of succinyl dichloride and 180.0 g N,O-dimethylhydroxylamine hydrochloride in 1.2 L dichloromethane and cool it in an ice bath. Add 305.9 g pyridine from an addition funnel with stir over 1.5 hours. Let the reaction mixture warm up to room temperature over night. Pour the reaction mixture into ice and water and separate the layers. Wash the organic layer with cold 2 N HCl (2×), water, 5% NaHCO3 (2×), and saturated brine. Dry over anhydrous Na2SO4 and evaporate to give crude product. It was washed with 3:1 hexanes and dichloromethane and dried to give the title compound as a light tan solid. 1H NMR (CDCl3, 500 MHz) δ: 3.70 (s, 6H), 3.15 (s, 6H), 2.74 (s, 4H).

reactant | succinyl dichloride | 136.2 g | C(CCC(=O)Cl)(=O)Cl | C4H4Cl2O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 180.0 g | Cl.CNOC
reactant | pyridine | 305.9 g | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
reactant | dichloromethane | 1.2 L | ClCCl | CH2Cl2
product | N,N′-Dimethoxy-N,N′-dimethylsuccinamide | CON(C(CCC(=O)N(C)OC)=O)C | C8H16N2O4
